US07696216B2
A mixture of 25 g (150 mmol) 5-hydroxy-2-nitro-benzaldehyde, 44.9 g (299 mmol) sodium iodide, 44.5 g propargyl bromide (80% in toluene), 42 ml N-ethyl-diisopropy-lamine and 400 ml acetone is stirred at rt for 6 d. The reaction mixture is filtered, concentrated, taken up in 1M aqueous hydrochloric acid and extracted with ethyl acetate to yield 2-nitro-5-propargyloxy-benzaldehyde.

reactant | 5-hydroxy-2-nitro-benzaldehyde | 150 mmol, 25 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | sodium iodide | 299 mmol, 44.9 g | [I-].[Na+]
reactant | propargyl bromide | 44.5 g | C(C#C)Br | C3H3Br
reactant | N-ethyl-diisopropy-lamine | 42 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 2-nitro-5-propargyloxy-benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OCC#C | C10H7NO4
